US08729078B2
5-(4-(Morpholine-4-carbonyl)phenylamino)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole-4-carbonitrile (880 mg, 2.06 mmol) was dissolved in 40 mL of ethanol. Hydrochloric acid (2N) was added and the mixture was stirred at room temperature overnight. After 16 hrs at room temperature, LC/MS indicated 60% desired material and 40% un-reacted starting material. The mixture was heated to 65° C. and stirred for 2 hrs. LC/MS indicated complete consumption of the starting material and the formation of the desired product. The mixture was treated with sodium hydroxide solution (4 g NaOH in 40 mL of water) under ice bath. The resulting mixture was extracted with ethyl acetate twice (350 mL). The organic layer was washed with brine and dried over sodium sulfate. TLC indicated a clean spot. Solvents were evaporated and the residue was triturated with dry ether to give 5-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile as a white solid (530 mg, 86.6% yield). H-NMR is consistent with the desired structure. LC/MS is clean and consistent with the desired molecular weight. LC/MS clacd for C15H15N5O2 (m/e) 297.12, obsd 298.0 (M+H, ES+).

reactant | 5-(4-(Morpholine-4-carbonyl)phenylamino)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole-4-carbonitrile | 2.06 mmol, 880 mg | N1(CCOCC1)C(=O)C1=CC=C(C=C1)NC1=C(C=NN1COCC[Si](C)(C)C)C#N | C21H29N5O3Si
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile | 530 mg, 86.6% yield | N1(CCOCC1)C(=O)C1=CC=C(C=C1)NC1=C(C=NN1)C#N | C15H15N5O2
